US04792567
Under a nitrogen atmosphere n-butyllithium (1.3 mL of a 2.5M solution in hexane) was added to a stirred, cold (-78° C.) solution of 1.15 gram (0.00293 mole) of N-cyclohexylmethyl-N-[phenyl(dimethoxyphosphinyl)methyl]carbamate in approximately 20 mL of tetrahydrofuran. This mixture was stirred for about 30 minutes at -78° C. after which 2-formyl-5-phenylthiophene (0.51 gram, 0.0027 mole) was added. The mixture was allowed to gradually warm to room temperature and stir for four hours. The reaction mixture was quenched with dilute hydrochloric acid and was then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and filtered through celite. The filtrate was evaporated under reduced pressure to yield 0.6 gram of ethyl N-cyclohexylmethyl-N-[1-phenyl-2-(5-phenyl-2-thienyl)ethene-1-yl]carbamate as a red gel.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-cyclohexylmethyl-N-[phenyl(dimethoxyphosphinyl)methyl]carbamate | 0.00293 mole, 1.15 gram | C1(CCCCC1)CN(C([O-])=O)C(P(=O)(OC)OC)C1=CC=CC=C1
reactant | 2-formyl-5-phenylthiophene | 0.0027 mole, 0.51 gram | C(=O)C=1SC(=CC1)C1=CC=CC=C1 | C11H8OS
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | approximately 20 mL | O1CCCC1 | C4H8O
product | ethyl N-cyclohexylmethyl-N-[1-phenyl-2-(5-phenyl-2-thienyl)ethene-1-yl]carbamate | 0.6 gram | C1(CCCCC1)CN(C(OCC)=O)C(=CC=1SC(=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H31NO2S
